US08058300B2
Step 3: 1-(4-Bromo-phenyl)-cyclopropanecarboxylic acid ethyl ester:
1-(4-Bromo-phenyl)-cyclopropanecarboxylic acid (5 g, 20.7 mmol) in EtOH (50 mL) was treated with sulfuric acid (2 mL), and the reaction was stirred at 75° C. for 1 hour. The mixture was worked up to give the title compound.

reactant | 1-(4-Bromo-phenyl)-cyclopropanecarboxylic acid | 20.7 mmol, 5 g | BrC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9BrO2
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 50 mL | CCO | C2H6O
product | 1-(4-Bromo-phenyl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)Br | C12H13BrO2
